US07582626B2
e) (4aR,7aS)-N-{3-[4-Hydroxy-1-(3-methyl-butyl)-2-oxo-2,4a,5,6,7,7a-hexahydro-1H-[1]pyrindin-3-yl]-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl}-methanesulfonamide
(1R,2S)-2-[[2-(7-Methanesulfonylamino-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-3-yl)-acetyl]-(3-methyl-butyl)-amino]-cyclopentanecarboxylic acid ethyl ester (0.3 mmol) was dissolved in ethanol (3 mL), a 21% w/w solution of sodium ethoxide in ethanol (0.56 mL, 1.5 mmol) was added into the above solution. The mixture was stirred at 60° C. for 2 h and allowed to cool to 25° C. The mixture was poured into 0.5 M aqueous hydrochloric acid solution (50 mL). The aqueous layer was extracted with ethyl acetate (2×50 mL). The organic layer was dried over sodium sulfate and concentrated in vacuo to afford the crude product, which was purified by flash column chromatography (Teledyne Isco RediSep Column; 100% ethyl acetate in hexanes) to afford the desired product, (4aR,7aS)-N-{3-[4-hydroxy-1-(3-methyl-butyl)-2-oxo-2,4a,5,6,7,7a-hexahydro-1H-[1]pyrindin-3-yl]-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl}-methanesulfonamide (0.054 g, 0.109 mmol, 36.3% over two steps), as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ: 0.93 (6H, d, J=6.1 Hz), 1.35-1.65 (7H, m), 2.06-2.18 (2H, m), 3.06 (3H, s), 3.17-3.34 (3H, m), 3.65-3.73 (1H, m), 3.92 (1H, bs), 7.49-7.56 (3H, m), 10.16 (1H, bs). LC-MS (ESI) calcd for C21H28N4O6S2 496.15, found 497.4 [M+H+].

reactant | (1R,2S)-2-[[2-(7-Methanesulfonylamino-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-3-yl)-acetyl]-(3-methyl-butyl)-amino]-cyclopentanecarboxylic acid ethyl ester | 0.3 mmol | C(C)OC(=O)[C@H]1[C@H](CCC1)N(CCC(C)C)C(CC1=NS(C2=C(N1)C=CC(=C2)NS(=O)(=O)C)(=O)=O)=O | C23H34N4O7S2
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | hydrochloric acid | 0.5 M, 50 mL | Cl | ClH
solvent | ethanol | 3 mL | C(C)O | C2H6O
solvent | ethanol | 1.5 mmol, 0.56 mL | C(C)O | C2H6O
product | (4aR,7aS)-N-{3-[4-hydroxy-1-(3-methyl-butyl)-2-oxo-2,4a,5,6,7,7a-hexahydro-1H-[1]pyrindin-3-yl]-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl}-methanesulfonamide | 0.109 mmol, 0.054 g, 36.3% | OC1=C(C(N([C@H]2CCC[C@@H]12)CCC(C)C)=O)C1=NS(C2=C(N1)C=CC(=C2)NS(=O)(=O)C)(=O)=O | C21H28N4O6S2
